US08541448B2
Intermediate 3.2: diethyl 4-aminobenzylphosphonate
Into a 100-mL 3-necked round-bottom flask, was placed a solution of diethyl 4-nitrobenzylphosphonate (5 g, 18.32 mmol, 1.00 equiv) in ethanol (50 mL) and a solution of NH4Cl (2.9 g, 54.72 mmol, 2.99 equiv) in water (50 mL) was added. This was followed by the addition of Fe (4.1 g, 73.21 mmol, 4.00 equiv), while the temperature was maintained at reflux. The resulting solution was heated to reflux for 1 hr. The solids were filtered out. The resulting mixture was concentrated under vacuum. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:3). This resulted in 2.5 g (56%) of the title compound as a yellow solid.

reactant | diethyl 4-nitrobenzylphosphonate | 18.32 mmol, 5 g, 1.00 equiv | [N+](=O)([O-])C1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H16NO5P
reactant | NH4Cl | 54.72 mmol, 2.9 g, 2.99 equiv | [NH4+].[Cl-]
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
catalyst | Fe | 73.21 mmol, 4.1 g, 4.00 equiv | [Fe] | Fe
product | diethyl 4-aminobenzylphosphonate | 2.5 g, 56% | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
